US08022223B2
A 40 mL flask was charges with tert-butyl 3-(chloro(methylsulfonyloxyimino)methyl)pyrrolidine-1-carboxylate (1.60 g, 4.90 mmol) and acetonitrile (25 mL). Added pyridine (1.22 mL, 15.1 mmol) and isothiocyanatosodium (0.398 g, 4.90 mmol) and heated to 40° C. for 45 minutes. Added 5-bromo-3-phenoxypyridin-2-amine (1.00 g, 3.77 mmol) and heated at 60° C. overnight. The reaction was cooled to ambient temperature, poured into water and extracted with EtOAc (100 mL). The organic layer were dried with sodium sulfate, filtered and concentrated. The residue was purified by MPLC (Biotage) eluting with 3:1 hexane:ethyl acetate to afford tert-butyl 3-(5-(5-bromo-3-phenoxypyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)pyrrolidine-1-carboxylate as a light yellow/off white solid: 1H NMR (d6-DMSO) δ 12.21 (s, 1H), 8.34 (s, 1H), 7.48 (s, 1H), 7.39 (t, 2H), 7.18 (t, 1H), 7.07 (d, 2H), 3.42-3.63 (m, 3H), 3.36 (m, 1H), 2.02-2.21 (m, 3H), 1.35 (s, 9H).

reactant | tert-butyl 3-(chloro(methylsulfonyloxyimino)methyl)pyrrolidine-1-carboxylate | 4.90 mmol, 1.60 g | ClC(C1CN(CC1)C(=O)OC(C)(C)C)=NOS(=O)(=O)C | C11H19ClN2O5S
reactant | pyridine | 15.1 mmol, 1.22 mL | N1=CC=CC=C1 | C5H5N
reactant | isothiocyanatosodium | 4.90 mmol, 0.398 g | N(=C=S)[Na]
reactant | 5-bromo-3-phenoxypyridin-2-amine | 3.77 mmol, 1.00 g | BrC=1C=C(C(=NC1)N)OC1=CC=CC=C1 | C11H9BrN2O
solvent | water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | tert-butyl 3-(5-(5-bromo-3-phenoxypyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)pyrrolidine-1-carboxylate | BrC=1C=C(C(=NC1)NC1=NC(=NS1)C1CN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C22H24BrN5O3S
